US09102669B2
To 6-fluoro-1H-indazole (6.46 mmol, 880 mg) in DMF (15 mL) cooled to 0° C. under Ar was added 95% NaH (6.46 mmol, 163 mg). The resulting mixture was stirred for 15 minutes before tert-butyl 4-(tosyloxy)piperidine-1-carboxylate (7.11 mmol, 2.52 g) was added. After an additional 15 minutes at 0° C., the ice bath was removed and the reaction vessel placed in a 110° C. bath for 2.75 hours. After cooling to ambient temperature, the DMF was removed in vacuo and ethyl acetate (100 mL) was added. The organic layer was washed with water and brine, dried (MgSO4), filtered and the solvent removed in vacuo. The resulting residue was purified by SiO2 column chromatography (0-40% EtOAc/hexanes) to yield tert-butyl 4-(6-fluoro-1H-indazol-1-yl)piperidine-1-carboxylate.

reactant | 6-fluoro-1H-indazole | 6.46 mmol, 880 mg | FC1=CC=C2C=NNC2=C1 | C7H5FN2
reactant | NaH | 6.46 mmol, 163 mg | [H-].[Na+]
reactant | tert-butyl 4-(tosyloxy)piperidine-1-carboxylate | 7.11 mmol, 2.52 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C17H25NO5S
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(6-fluoro-1H-indazol-1-yl)piperidine-1-carboxylate | FC1=CC=C2C=NN(C2=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H22FN3O2
